US08912188B2
To a solution of methyl 3-chloro-2-oxo-1,2-dihydroquinoxaline-6-carboxylate (1.0 g, crude) in DMSO (10 mL) was added tert-butyl-(3S)-3-methylpiperazine-1-carboxylate (1.0 g, 4.99 mmol) and DIEA (1.0 g, 7.74 mmol). The resulting solution was stirred overnight at 80° C. in an oil bath and then diluted with water (100 mL), extracted with ethyl acetate (4×40 mL) and the organic layers combined and dried over anhydrous magnesium sulfate. The solids were filtered out and filtrate was concentrated in vacuo to give a residue, which was purified by a silica gel column chromatography (2% ethyl acetate in petroleum ether) to afford methyl 3-[(2S)-4-[(tert-butoxy)carbonyl]-2-methylpiperazin-1-yl]-2-oxo-1,2-dihydroquinoxaline-6-carboxylate as a light yellow solid (310 mg).

reactant | methyl 3-chloro-2-oxo-1,2-dihydroquinoxaline-6-carboxylate | 1.0 g | ClC=1C(NC2=CC=C(C=C2N1)C(=O)OC)=O | C10H7ClN2O3
reactant | tert-butyl-(3S)-3-methylpiperazine-1-carboxylate | 4.99 mmol, 1.0 g | C(C)(C)(C)OC(=O)N1C[C@@H](NCC1)C | C10H20N2O2
reactant | DIEA | 7.74 mmol, 1.0 g | CCN(C(C)C)C(C)C | C8H19N
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
solvent | water | 100 mL | O | H2O
product | methyl 3-[(2S)-4-[(tert-butoxy)carbonyl]-2-methylpiperazin-1-yl]-2-oxo-1,2-dihydroquinoxaline-6-carboxylate | 310 mg | C(C)(C)(C)OC(=O)N1C[C@@H](N(CC1)C=1C(NC2=CC=C(C=C2N1)C(=O)OC)=O)C | C20H26N4O5
